US07595321B2
3-Amino-6-bromo-N-(2-morpholin-4-ylethyl)pyrazine-2-carboxamide
1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.68 g, 3.5 mmol) was added in one portion to a stirred suspension of 2-morpholin-4-ylethanamine (0.422 g, 3.2 mmol), 3-amino-6-bromopyrazine-2-carboxylic acid (0.64 g, 3.0 mmol; described in: Ellingson, R. C.; Henry, R. L. J. Am. Chem. Soc. 1949, 2798-2800), and 1-hydroxybenzotriazole hydrate (0.48 g, 3.5 mmol) in acetonitrile (25 mL) at 0° C. The cooling bath was removed and stirring was continued at room temperature for 7 h. The solid was filtered off, washed with acetonitrile and purified by column chromatography on silica using methylene chloride/methanol/triethyl amine, (95:5:0.1), to give 0.68 g (69% yield) of the title compound: 1H NMR (DMSO-d6, 400 MHz) δ 8.53 (m, 1H), 8.34 (s, 1H), 8.68 (br s, 2H), 3.57 (t, J=5 Hz, 4H), 3.37 (q, J=7 Hz, 2H), 2.47 (q, J=7 Hz, 2H), 2.40 (m, 4H); MS (ES) m/z 330 and 332 (M++1).

reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 3.5 mmol, 0.68 g | Cl.CN(CCCN=C=NCC)C
reactant | 2-morpholin-4-ylethanamine | 3.2 mmol, 0.422 g | N1(CCOCC1)CCN | C6H14N2O
reactant | 3-amino-6-bromopyrazine-2-carboxylic acid | 3.0 mmol, 0.64 g | NC=1C(=NC(=CN1)Br)C(=O)O | C5H4BrN3O2
reactant | 1-hydroxybenzotriazole hydrate | 3.5 mmol, 0.48 g | O.ON1N=NC2=C1C=CC=C2
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 3-Amino-6-bromo-N-(2-morpholin-4-ylethyl)pyrazine-2-carboxamide | 0.68 g, 69% yield | NC=1C(=NC(=CN1)Br)C(=O)NCCN1CCOCC1 | C11H16BrN5O2
